US06838565B2
b. methyl (2-benzyloxy-5-cyano-phenyl)-acetate
10.0 g (0.037 mol) of (2-benzyloxy-5-cyano-phenyl)-acetic acid are refluxed for two hours in 65 ml dichloromethane, 0.1 ml of dimethylformamide and 8.1 ml (0.11 mol) of thionyl chloride. Then the mixture is concentrated by evaporation, the residue is combined with 55 ml of methanol and refluxed for one hour. After cooling the mixture is suction filtered, washed with ether/petroleum ether and dried at 50° C.

reactant | (2-benzyloxy-5-cyano-phenyl)-acetic acid | 0.037 mol, 10.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#N)CC(=O)O | C16H13NO3
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.11 mol, 8.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
product | methyl (2-benzyloxy-5-cyano-phenyl)-acetate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#N)CC(=O)OC | C17H15NO3
